US08809552B2
b) 1-(4-Chloro-benzenesulfonyl)-1,6-diaza-spiro[3.3]heptane-6-carboxylic acid 2,4-dichloro-benzylamide
In analogy to the experimental procedure of example 6b) 6-(2,4-Dichloro-benzylcarbamoyl)-1,6-diaza-spiro[3.3]heptane-1-carboxylic acid tert-butyl ester instead of tert-butyl 1-(2,4-dichlorobenzylcarbamoyl)-1,6-diazaspiro[3.3]heptane-6-carboxylate was converted using 4-chlorobenzene-1-sulfonyl chloride into the title compound which was obtained as an off-white solid (41 mg, 23%). MS m/e: 474 (M+H)+.

reactant | 6-(2,4-Dichloro-benzylcarbamoyl)-1,6-diaza-spiro[3.3]heptane-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC12CN(C2)C(NCC2=C(C=C(C=C2)Cl)Cl)=O | C18H23Cl2N3O3
reactant | 4-chlorobenzene-1-sulfonyl chloride | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
product | 1-(4-Chloro-benzenesulfonyl)-1,6-diaza-spiro[3.3]heptane-6-carboxylic acid 2,4-dichloro-benzylamide | ClC1=C(CNC(=O)N2CC3(CCN3S(=O)(=O)C3=CC=C(C=C3)Cl)C2)C=CC(=C1)Cl | C19H18Cl3N3O3S
